US06255494B1
Preparation of 4-trifluoromethanesulfonyloxy-2-[(4-chlorophenoxy)methyl]-1-trifluoromethanesulfonylbenzimidazole
In a 500 ml flask, under a nitrogen atmosphere, were added 4-hydroxy-2-[(4-chlorophenoxy)methyl]benzimidazole (9.10 g, 33.1 mmol) and pyridine (300 ml). The contents were then chilled to 0° C. and trifluoromethanesulfonic anhydride (23.36 g, 82.8 mmol) was then added by syringe. The resulting mixture was stirred at 0° C. for two hours and then stirred at room temperature overnight. The progress of the reaction was monitored by thin layer chromatography. The solvents were then removed in vacuo. The residue was redissolved in ethyl acetate (500 ml) and washed with water (3×500 ml). The organic fraction was dried over sodium sulfate and the solvents were removed in vacuo. Yield: 14.64 g (82.0%).

reactant | 4-hydroxy-2-[(4-chlorophenoxy)methyl]benzimidazole | 33.1 mmol, 9.10 g | OC1=CC=CC=2N=C(NC21)COC2=CC=C(C=C2)Cl | C14H11ClN2O2
reactant | trifluoromethanesulfonic anhydride | 82.8 mmol, 23.36 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | 4-trifluoromethanesulfonyloxy-2-[(4-chlorophenoxy)methyl]-1-trifluoromethanesulfonylbenzimidazole | FC(S(=O)(=O)OC1=CC=CC=2N(C(=NC21)COC2=CC=C(C=C2)Cl)S(=O)(=O)C(F)(F)F)(F)F | C16H9ClF6N2O6S2
